US07915443B2
N-[{2-[(2,3-dihydroxypropyl)amino]-2-oxoethyl}(oxido)phenyl--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide
In a manner similar to that described in Example 534, (S)-Ethyl[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate and 3-amino-1,2-propanediol were reacted to give the title compound.

reactant | (S)-Ethyl[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)C1=CC=CC=C1
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
product | N-[{2-[(2,3-dihydroxypropyl)amino]-2-oxoethyl}(oxido)phenyl--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide | OC(CNC(CS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)=O)(C1=CC=CC=C1)=O)=O)CO | C31H30N6O6S
